US08168794B2
To a degassed solution of (+/−)-2-(tert-butoxycarbonylamino)-6-methyl-4-(3-nitropyridin-4-yl)cyclohex-3-enyl acetate (1.0 equiv.) in MeOH and EtOAc (1:1, 0.1M) was added Pd/C (0.1 equiv.) and the reaction was stirred at room temperature under a hydrogen balloon for 3 days. Upon completion, the solution was filtered through a pad of Celite, the pad was washed with ethyl acetate and the filtrate was concentrated. The crude material contained about 10% of the undesired isomer. The crude was dissolved in ethyl acetate (˜20%) and hexanes and heated until all dissolved. The solution was allowed to sit at room temperature for 2 days. The precipitate was then collected to give (+/−)-4-(3-aminopyridin-4-yl)-2-(tert-butoxycarbonylamino)-6-methylcyclohexyl acetate as the pure product in 59% yield. LC/MS=364.3 (M+H), Rt=0.63 min.

reactant | (+/−)-2-(tert-butoxycarbonylamino)-6-methyl-4-(3-nitropyridin-4-yl)cyclohex-3-enyl acetate | 1.0 equiv. | C(C)(=O)OC1C(C=C(CC1C)C1=C(C=NC=C1)[N+](=O)[O-])NC(=O)OC(C)(C)C | C19H25N3O6
solvent | MeOH | CO | CH4O
solvent | EtOAc | 0.1M | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.1 equiv. | [Pd] | Pd
product | (+/−)-4-(3-aminopyridin-4-yl)-2-(tert-butoxycarbonylamino)-6-methylcyclohexyl acetate | 59% yield | C(C)(=O)OC1C(CC(CC1C)C1=C(C=NC=C1)N)NC(=O)OC(C)(C)C | C19H29N3O4
